US05350762
1,2,3,4-Tetrahydro-2-hydroxymethyl-4-methylcyclopent[b]indole-7-ol
To a suspension of 10% Pd/C (1.2 g) in 50 ml of ethanol was added a solution of 1,2,3,4-tetrahydro-7-phenylmethoxy-4-methylcyclopent[b]indole-2-methanol (8.4 g, 0.027 mole) in 200 ml of ethanol in a Parr hydrogenation bottle. After shaking at 50° C., under 50 psi hydrogen for two hours, the mixture was cooled, filtered, and then concentrated to a dark oil. The oil was eluted on a silica gel column with ethyl acetate/dichloromethane (1:2) via HPLC. The desired fractions were combined and then concentrated to a light yellow solid. The material was triturated with ether and dried to give 4.0 g (66%) of the product as an off-white solid, m.p. 153°-4° C.

reactant | 1,2,3,4-tetrahydro-7-phenylmethoxy-4-methylcyclopent[b]indole-2-methanol | 0.027 mole, 8.4 g | C1(=CC=CC=C1)COC1=CC=2C3=C(N(C2C=C1)C)CC(C3)CO | C20H21NO2
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 50 ml | C(C)O | C2H6O
solvent | ethanol | 200 ml | C(C)O | C2H6O
catalyst | Pd/C | 1.2 g | [Pd] | Pd
product | 1,2,3,4-Tetrahydro-2-hydroxymethyl-4-methylcyclopent[b]indole-7-ol | 4.0 g, 66% | OCC1CC2=C(N(C=3C=CC(=CC23)O)C)C1 | C13H15NO2
